US08426448B2
Hydrochloride Salt formation: Add concentrated HCl (2.11 mL g, 25.5 mmol) solution to a yellow solution of 4-[(3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-1-yl]-benzonitrile (10.70 g, 19.5 mmol) in ethyl acetate at 70° C. Add slowly cyclohexane (360 mL) and heat to reflux for 30 min until precipitate forms. Cool to 50° C. and stir for 2 h., then allow to stir at room temperature. Sonicate the precipitate mixture, chill in ice-bath, and filter to give 11.7 g (102% yield, undried) of 4-[(3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-1-yl]-benzonitrile hydrochloride. LC-MS ESI m/z: 549.0 (M+H)+, Tr=2.44 min., method 2.

reactant | HCl | 25.5 mmol, 2.11 mL | Cl | ClH
reactant | 4-[(3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-1-yl]-benzonitrile | 19.5 mmol, 10.70 g | CC(C)(C1=NC(=CC=C1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C#N)C=C1)=O | C27H22F6N4O2
reactant | cyclohexane | 360 mL | C1CCCCC1 | C6H12
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-1-yl]-benzonitrile hydrochloride | 11.7 g, 102% yield | Cl.CC(C)(C1=NC(=CC=C1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C#N)C=C1)=O | InChI=1S/C27H22F6N4O2.ClH/c1-25(2,22-7-4-8-23(35-22)26(28,29)30)36-20-14-21(17-5-3-6-19(13-17)39-27(31,32)33)37(24(20)38)18-11-9-16(15-34)10-12-18;/h3-13,20-21,36H,14H2,1-2H3;1H/t20-,21-;/m1./s1
